US07300944B2
3-Cyclobutyl-2,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one
To an aliquot of 3-cyclobutyl-2,7-dihydro-pyrazolo[3,4-b]pyridin-6-one-hydrochloride salt (0.20 mg, 0.87 mmol) in MeOH (30 mL) was added 10% Pd/C (200 mg). The reaction mixture, in a hydrogenation bottle, was pressured with 45 psi H2, and then the reaction mixture was heated to 65° C. (internal). After 14 hr, the reaction was cooled to room temperature, filtered through a plug of diatomaceous earth, and concentrated under reduced pressure. Partial purification of this material was accomplished by MPLC using a 10 g ISCO column, eluting with 2% MeOH/CH2Cl2 with 0.2% NH4OH. The product-containing fractions with biproduct were collected and concentrated. This material was further purified by trituration with Et2O. The product was filtered off and dried under reduced pressure to afford the title compound (40.0 mg, 23% yield) as a colorless solid. Rf=0.54 (10% MeOH/CH2Cl2). 400 MHz 1H NMR (CD3OD) d 3.54 (dddd, J=8.8, 8.7, 8.7, 8.7 Hz, 1H), 2.75 (apt t, J=7.5 Hz, 2H), 2.58 (apt t, J=7.5 Hz, 2H), 2.33-2.23 (m, 4H), 2.07 (dddd, J=18.7, 9.5, 9.5, 9.5 Hz, 1H), 7.75-7.48 (m, 1H). LRMS m/z (APCI+) 192 (M+1).

reactant | 3-cyclobutyl-2,7-dihydro-pyrazolo[3,4-b]pyridin-6-one-hydrochloride salt | 0.87 mmol, 0.20 mg | Cl.C1(CCC1)C=1NN=C2NC(C=CC21)=O
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 3-Cyclobutyl-2,4,5,7-tetrahydro-pyrazolo[3,4-b]pyridin-6-one | 40.0 mg, 23% yield | C1(CCC1)C=1NN=C2NC(CCC21)=O | C10H13N3O
